US05547975
A mixture of potassium tert-butoxide (30.80 g, 274 mmol) and anhydrous tetrahydrofuran (300 mL) was cooled to -78° C. and treated with a 1.6M solution of n-butyllithium (172 mL, 275 mmol) in hexanes. After stirring for 15 minutes, 2-fluoroanisole (31.35 g, 248 mmol) was added and the reaction was stirred an additional 1.8 hours. The reaction was poured into a 2 L Erlenmeyer flask containing dry ice and warmed to room temperature. Water (250 mL) was added and after extracting with ether (160 mL), the aqueous layer was acidified with concentrated hydrochloric acid, and filtered to give 2-fluoro-3-methoxybenzoic acid (21.43 g, 51%) as a yellow solid: mp 155°-160° C.; 1H NMR (acetone-d6) 300 MHz 7.46 (ddd, J=6.0 Hz J=1.8 Hz J=1.4 Hz, 1H) 7.36 (dt, J=1.6 Hz J=8.1 Hz, 1H) 7.20 (dt, J=1.4 Hz J=8.1 Hz, 1H) 3.92 (s, 3H); 19F NMR (acetone-d6) 300 MHz -134.04(m). Mass spectrum: M+H=171.

reactant | potassium tert-butoxide | 274 mmol, 30.80 g | CC(C)([O-])C.[K+]
reactant | n-butyllithium | 275 mmol, 172 mL | C(CCC)[Li]
reactant | 2-fluoroanisole | 248 mmol, 31.35 g | FC1=C(C=CC=C1)OC | C7H7FO
reactant | dry ice | C(=O)=O | CO2
solvent | Water | 250 mL | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2-fluoro-3-methoxybenzoic acid | 21.43 g, 51% | FC1=C(C(=O)O)C=CC=C1OC | C8H7FO3
